US04585796
750 mg of 5-(3-aminopropyl)-2-thiophenecarboxamide and 0.47 ml of (±)-phenylethylene oxide were heated to boiling for 4 hours in 4.7 ml of ethanol. After evaporation of the solvent in vacuo, the residue was chromatographed on silica gel with ether/methanol. There were obtained 400 mg of 5-[3-[bis-(β-hydroxyphenethyl)amino]propyl]-2-thiophenecarboxamide; UV: ε277 =11250.

reactant | 5-(3-aminopropyl)-2-thiophenecarboxamide | 750 mg | NCCCC1=CC=C(S1)C(=O)N | C8H12N2OS
reactant | (±)-phenylethylene oxide | 0.47 ml | C1(=CC=CC=C1)C1CO1 | C8H8O
solvent | ethanol | 4.7 ml | C(C)O | C2H6O
product | 5-[3-[bis-(β-hydroxyphenethyl)amino]propyl]-2-thiophenecarboxamide | 400 mg | OC(CN(CCCC1=CC=C(S1)C(=O)N)CC(C1=CC=CC=C1)O)C1=CC=CC=C1 | C24H28N2O3S
